US07214802B2
A solution of 500 mg (2.09 mmol) of 2-chloro-5-iodo pyridine in 1.64 g (23.1 mmol) of aminomethylcyclopropane was heated to 100° C. in a sealed tube for 48 h. The mixture was then concentrated, dissolved in EtOAc, washes with water and brine, dried with MgSO4, filtered, and concentrated. Recrystallization from hexanes provided 440 mg (1.61 mmol; 77%) of cyclopropylmethyl-(5-iodo-pyridin-2-yl)-amine. ESI MS m/z 275 [C9H11 IN2+H]+.

reactant | 2-chloro-5-iodo pyridine | 2.09 mmol, 500 mg | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | aminomethylcyclopropane | 23.1 mmol, 1.64 g | NCC1CC1 | C4H9N
product | cyclopropylmethyl-(5-iodo-pyridin-2-yl)-amine | 1.61 mmol, 440 mg, 77% | C1(CC1)CNC1=NC=C(C=C1)I | C9H11IN2
